US06632824B2
3-(3,4-Dichloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octan-3-ol
To 4.0 mL (7.04 g, 31.18 mmol) 4-bromo-1,2-dichloro-benzene in 100 mL THF at −78° C. is added 12.47 mL of a 2.5 M solution of n-BuLi in hexanes in drops over 5 min. After stirring at −78° C. for 45 min, 4.34 g (31.18 mmol) tropinone is added as a solid. The resulting mixture is warmed to 23° C. and stirred for 18 h. After pouring into 2.5 N NaOH, the reaction mixture is extracted with 2×100 mL EtOAc, the organics are combined and washed with 1×100 mL H2O, 1×100 mL brine, dried over MgSO4, filtered and evaporated to an off-white solid. Flash chromatography on SiO2 gel, eluting with CHCl3/MeOH (20/1 to 5/1), gives 2.58 g (9.02 mmol, a 28% yield) of the title compound as a white solid. mp: 153-154° C.; MS (ES) m/z 287 (MH)+.

reactant | 4-bromo-1,2-dichloro-benzene | 31.18 mmol, 4.0 mL, 7.04 g | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | n-BuLi | [Li]CCCC
reactant | tropinone | 31.18 mmol, 4.34 g | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | NaOH | 2.5 N | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(3,4-Dichloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octan-3-ol | 28% yield | ClC=1C=C(C=CC1Cl)C1(CC2CCC(C1)N2C)O | C14H17Cl2NO
